US09085555B2
B. Indolizine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester
To a suspension of 1-benzyloxycarbonylmethyl-pyridinium bromide (1.50 g, 9.74 mmol) and tert-butyl propiolate (1.34 mL, 9.74 mmol) in DMF (80 mL) was added a solution of triethylamine (4.1 mL, 29.2 mmol) in DMF (10 mL). The mixture was vigourously stirred 4 h at 60° C. under air atmosphere. The solution was allowed to cool to RT, poured into water and extracted with EtOAc (2×). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 8:2) to give the desired material. TLC, Rf (c-hexane/EtOAc 8:2)=0.6; MS (LC/MS): 725.3 [2M+Na]+; tR (HPLC conditions a): 4.84 min.

reactant | 1-benzyloxycarbonylmethyl-pyridinium bromide | 9.74 mmol, 1.50 g | [Br-].C(C1=CC=CC=C1)OC(=O)C[N+]1=CC=CC=C1
reactant | tert-butyl propiolate | 9.74 mmol, 1.34 mL | C(C#C)(=O)OC(C)(C)C | C7H10O2
reactant | triethylamine | 29.2 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Indolizine-1,3-dicarboxylic acid 3-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)C=1C=C(N2C=CC=CC12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
